US04430339
(a) 2-[4-(2-Cyclohexylethoxy)-butyl]-oxirane-2-carboxylic acid ethyl ester
5.3 g of the title compound, in the form of an oil, which is purified by chromatography on silica gel (migrating agent: 9:1 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1a) from 11.2 g of 6-(2-cyclohexylethoxy)-2-methylenehexanoic acid ethyl ester and 13.7 g of m-chloroperbenzoic acid in 100 ml of methylene chloride.

reactant | 6-(2-cyclohexylethoxy)-2-methylenehexanoic acid ethyl ester | 11.2 g | C(C)OC(C(CCCCOCCC1CCCCC1)=C)=O | C17H30O3
reactant | m-chloroperbenzoic acid | 13.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-Cyclohexylethoxy)-butyl]-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCCOCCC1CCCCC1 | C17H30O4
